US04098892
5.7 g of benzoguanamine and 4.0 g of nicotinic acid are dissolved in 300 ml of pyridine, and this solution is stirred with 5.0 g of phosphoryl chloride at room temperature. After continuing agitation at 60° C for 2 hours, the pyridine is removed by evaporation to dryness under vacuum. The residue is washed with water and fractionated and recrystallized from a mixed solution of methanol and dioxane, to yield 2-amino-4-nicotinamido-6-phenyl-s-triazine [mononicotinoylbenzoguanamine], melting point, 240° - 242° C in a yield of 2.8 g, and 2,4-bis(nicotinamido)-6-phenyl-s-triazine [dinicotinoylbenzoguanamine], melting point, 131° - 133° C in a yield of 0.7 g.

reactant | benzoguanamine | 5.7 g | C=1C=CC(=CC1)C=2N=C(N=C(N2)N)N | C9H9N5
reactant | nicotinic acid | 4.0 g | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | phosphoryl chloride | 5.0 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | pyridine | 300 ml | N1=CC=CC=C1 | C5H5N
product | 2-amino-4-nicotinamido-6-phenyl-s-triazine | NC1=NC(=NC(=N1)NC(C1=CN=CC=C1)=O)C1=CC=CC=C1 | C15H12N6O
